** Discrete

.subckt Previous Y U
.machine
.output (pre_U) V(U)
.endmachine
R1 pre_U 0 1k
B1 Y 0 V=if(time>0,V(pre_U),V(U)) tripdt=1e300
.ends

.subckt Edge Y U
.machine
.output (pre_U) V(U)
.endmachine
R1 pre_U 0 1k
B1 Y 0 V=(time>0)&((rise&!(V(pre_U))&V(U))|(fall&V(pre_U)&!(V(U)))) tripdt={tripdt}
.param rise=1 fall=0 tripdt=1e300
.ends

.subckt ZeroOrderHold Y U
.machine
.output (pre_CLK) V(CLK)
.output (pre_Y) V(Y)
.endmachine
R1 pre_CLK 0 1k
R2 pre_Y 0 1k
V1 CLK 0 PULSE(0 1 0 1e-323 1e-323 {T} {2*T})
B1 edge_CLK 0 V=V(pre_CLK)^V(CLK) tripdt={tripdt}
B2 Y 0 V=if(V(edge_CLK),V(U),V(pre_Y)) tripdt=1e300
.param T=1
.param tripdt={T*1m}
.ic V(pre_CLK)=1
.ends ZeroOrderHold

.subckt UnitDelay Y U
.machine
.output (pre_CLK) V(CLK)
.output (pre_D) if(V(edge_CLK),V(U),V(pre_D))
.output (pre_Y) V(Y)
.endmachine
R1 pre_CLK 0 1k
R2 pre_D 0 1k
R3 pre_Y 0 1k
V1 CLK 0 PULSE(0 1 0 1e-323 1e-323 {T} {2*T})
B1 edge_CLK 0 V=V(pre_CLK)^V(CLK) tripdt={tripdt}
B2 Y 0 V=if(V(edge_CLK),V(pre_D),V(pre_Y)) tripdt=1e300
.param T=1
.param Y0=0
.param tripdt={T*1m}
.ic V(pre_D)={Y0} V(pre_Y)={Y0}
.ends UnitDelay
